US07253187B2
4-(5-Methyl-2-propylsulfanyl-pyrimidin-4-yl)-4H-pyrrole-2-carboxylic acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide:
To a solution of 4-(2-mercapto-5-methyl-pyrimidin-4-yl)-1H-pyrrole-2-carboxylic acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide (7.7 mmol, 2.74 mmol) in aqueous ammonia (15%) was added at room temperature n-propyliodide (11.6 mmol, 1.1 mL). The solution was stirred overnight at room temperature. The resulting solid was collected by filtration and used directly for the next step. 1H NMR consistent with the structure.

reactant | 4-(2-mercapto-5-methyl-pyrimidin-4-yl)-1H-pyrrole-2-carboxylic acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide | 7.7 mmol | OC[C@H](C1=CC=CC=C1)NC(=O)C=1NC=C(C1)C1=NC(=NC=C1C)S | C18H18N4O2S
reactant | n-propyliodide | 11.6 mmol, 1.1 mL | C(CC)I | C3H7I
solvent | ammonia | N | H3N
product | 4-(5-Methyl-2-propylsulfanyl-pyrimidin-4-yl)-4H-pyrrole-2-carboxylic acid (2-hydroxy-1-(S)-phenyl-ethyl)-amide | OC[C@H](C1=CC=CC=C1)NC(=O)C=1N=CC(C1)C1=NC(=NC=C1C)SCCC | C21H24N4O2S
